US04720500
The procedure is analogous to that described in Example 11, but starting with 3-chlorobenzoic acid (1.6 g), N,N'-carbonyldiimidazole (1.6 g) and 2-amino-7-(4-chlorophenyl)-1,8-naphthyridine (1.8 g). The product obtained by precipitation in water (2.2 g; m.p. approximately 190° C.) is dissolved in boiling propanol (400 cc). After cooling for 4 hours at 4° C., the crystallized solid is separated by filtration, washed with propanol (3×5 cc) and dried at 40° C. under reduced pressure (0.07 kPa). N-[7-(4-Chlorophenyl)-1,8-naphthyridin-2-yl]-3-chlorobenzamide (0.85 g), m.p. 222°-224° C., is obtained.

reactant | 3-chlorobenzoic acid | 1.6 g | ClC=1C=C(C(=O)O)C=CC1 | C7H5ClO2
reactant | 2-amino-7-(4-chlorophenyl)-1,8-naphthyridine | 1.8 g | NC1=NC2=NC(=CC=C2C=C1)C1=CC=C(C=C1)Cl | C14H10ClN3
reactant | propanol | 400 cc | C(CC)O | C3H8O
solvent | water | 2.2 g | O | H2O
product | N-[7-(4-Chlorophenyl)-1,8-naphthyridin-2-yl]-3-chlorobenzamide | 0.85 g | ClC1=CC=C(C=C1)C1=CC=C2C=CC(=NC2=N1)NC(C1=CC(=CC=C1)Cl)=O | C21H13Cl2N3O
